US04092466
A suspension of 2-chloro-4,6-diphenyl-s-triazine (30 g, 0.112 mol), sodium azide (12.86 g, 0.199 mol) and lithium azide (1.24 g, 0.025 mol) in acetonitrile (550 ml) was stirred at room temperature for 11 days. After filtration, the filtrate on evaporation yielded 6.9 g of 2-azido-4,6-diphenyl-s-triazine, mp 115°-117° C. The residue on extraction with hot heptane, followed by crystallization from heptane, gave an additional 20 g quantity having a mp of 114°-116° C bringing the total yield of 2-azido-4,6-diphenyl-s-triazine to 26.9 g (88% yield). The melting point and infrared spectrum were identical with that of an authentic sample.

reactant | 2-chloro-4,6-diphenyl-s-triazine | 0.112 mol, 30 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
reactant | sodium azide | 0.199 mol, 12.86 g | [N-]=[N+]=[N-].[Na+]
reactant | lithium azide | 0.025 mol, 1.24 g | [N-]=[N+]=[N-].[Li+]
solvent | acetonitrile | 550 ml | C(C)#N | C2H3N
product | 2-azido-4,6-diphenyl-s-triazine | 6.9 g, 88% yield | N(=[N+]=[N-])C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10N6
